US05330991
To 20 ml of a solution containing 2.70 g of 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline- 4-carboxylic acid (mixture of diastereomers) in dimethylsulfoxide, 1.10 g of sodium carbonate was added and the resulting mixture was heated at 150° C. for 12 hours. After the reaction, the solvent was evaporated under reduced pressure and 200 ml of water was added thereto. The resultant was extracted with ethyl acetate (50 ml×3) The organiclayers were combined and washed with saturated aqueous sodium chloride solution and the resultant was dried over anhydrous magnesium sulfate. After evaporating the solvent under reduced pressure, the residue was purified by column chromatography on silica gel (hexane/ethyl acetate=5/1 v/v) to obtain 2.10 g of 3-(4-tertbutylphenyl)-7-isopropyl-2-methyl-l,2,3,4-tetrahydroisoquinoline-1-one.

reactant | 3-(4-tert-butylphenyl)-7-isopropyl-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline- 4-carboxylic acid | 2.70 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC(=CC=C2C1C(=O)O)C(C)C)=O)C | C24H29NO3
reactant | sodium carbonate | 1.10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-(4-tertbutylphenyl)-7-isopropyl-2-methyl-l,2,3,4-tetrahydroisoquinoline-1-one | 2.10 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC(=CC=C2C1)C(C)C)=O)C | C23H29NO
